US04485107
5 Parts of 3-[2-[4-[bis(4-fluorophenyl)methylene]-1-piperidinyl]ethyl]-2-methyl-4H-pyrido[1,2-a]pyrimidin-4-one dihydrochloride were dissolved in water and the base was liberated with ammonium hydroxide. The product was extracted with dichloromethane. The extract was dried, filtered and evaporated. The residue was stirred in a dilute ammonium hydroxide solution. The product was extracted with dichloromethane. The extract was dried, filtered and evaporated. The residue was crystallized from a mixture of 4-methyl-2-pentanone and 2,2'-oxybispropane. The product was filtered off and dried, yielding 2.2 parts of 3-[2-[4-[bis(4-fluorophenyl)methylene]-1-piperidinyl]ethyl]-2-methyl-4H-pyrido[1,2-a]pyrimidin-4-one; mp. 108.7° C. (compound 156).

reactant | 3-[2-[4-[bis(4-fluorophenyl)methylene]-1-piperidinyl]ethyl]-2-methyl-4H-pyrido[1,2-a]pyrimidin-4-one dihydrochloride | Cl.Cl.FC1=CC=C(C=C1)C(=C1CCN(CC1)CCC1=C(N=C2N(C1=O)C=CC=C2)C)C2=CC=C(C=C2)F
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | water | O | H2O
product | 3-[2-[4-[bis(4-fluorophenyl)methylene]-1-piperidinyl]ethyl]-2-methyl-4H-pyrido[1,2-a]pyrimidin-4-one | FC1=CC=C(C=C1)C(=C1CCN(CC1)CCC1=C(N=C2N(C1=O)C=CC=C2)C)C2=CC=C(C=C2)F | C29H27F2N3O
